US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-3-yl)-5-(4-fluorophenyl)-1H-indole-7-carboxamide
5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxamide (0.050 g, 0.134 mmol) and (4-fluorophenyl)boronic acid (0.024 g, 0.174 mmol) was dissolved in a 6:1 solution of 1,4 dioxane (3 mL)/water (0.5 mL) in a 20 mL microwave reaction vessel. Potassium carbonate (0.093 g, 0.670 mmol) was added and the solution was degassed with Nitrogen. PdCl2(dppf)2 (0.017 g, 0.023 mmol) was added and the reaction was heated in a microwave at 100° C. for 20 min. The solution was passed through a StratoSphere SPE PL-Thiol MP SPE column to remove palladium and purified on Gilson preparative HPLC using Acetonitrile/Water with 0.1% TFA. The desired fractions were concentrated, giving 0.016 g (30%) of the title compound.

reactant | 5-Bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-3-yl)-1H-indole-7-carboxamide | 0.134 mmol, 0.050 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CS(CCC1)(=O)=O | C14H15BrN2O3S
reactant | (4-fluorophenyl)boronic acid | 0.174 mmol, 0.024 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Potassium carbonate | 0.670 mmol, 0.093 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4 dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | PdCl2(dppf)2 | 0.023 mmol, 0.017 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-3-yl)-5-(4-fluorophenyl)-1H-indole-7-carboxamide | 0.016 g, 30% | O=S1(CC(CCC1)C1=CNC2=C(C=C(C=C12)C1=CC=C(C=C1)F)C(=O)N)=O | C20H19FN2O3S
